US04730003
2,7,7-Trimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
Analogously to Example 5, 5.00 g. (0.019 mole) 6-acetamido-5-nitro-3,3-dimethylindolin-2-one are suspended in 900 ml. glacial acetic acid and hydrogenated in the presence of 0.5 g. platinum dioxide at normal pressure and ambient temperature. After 1.4 liters of hydrogen have been taken up, the reaction mixture is filtered and the filtrate is evaporated to dryness in a vacuum. The residue is taken up in water and neutralised with a 2N aqueous ammonia solution. The precipitate obtained is filtered off with suction and recrystallised from ethyl acetate. There are obtained 2.75 g. (67% of theory) of the title compound; m.p. >300° C.

reactant | 6-acetamido-5-nitro-3,3-dimethylindolin-2-one | 0.019 mole | C(C)(=O)NC1=C(C=C2C(C(NC2=C1)=O)(C)C)[N+](=O)[O-] | C12H13N3O4
reactant | hydrogen | 1.4 liters | [H][H] | H2
catalyst | platinum dioxide | [Pt](=O)=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,7,7-Trimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC=1NC2=C(N1)C=C1C(=C2)NC(C1(C)C)=O | C12H13N3O
